US07348337B2
Preparation of 4-(1-Phenyl-1-(pyrazin-2-yl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester (0.352 g, 1.0 mmol) in 4 mL of dry THF, at −78° C. under Ar, was added n-butyllithium solution (1.6M in hexanes, 0.75 mL, 1.2 mmol) dropwise. After 15 min, a solution of freshly fused ZnCl2 in 1.2 mL of dry THF was added dropwise and then the cooling bath was removed and the reaction mixture was allowed to warm to room temperature. To this mixture was then added 2-iodopyrazine (0.119 mL, 1.2 mmol) and (Ph3P)4Pd (0.058 g, 5 mol %) and the reaction vessel was sealed and then heated at 90° C. for 16 h. The cooled mixture was quenched with saturated aqueous NH4Cl and then it was partitioned with EtOAc-water. The organic phase was washed (brine), dried (Na2SO4) and evaporated to give a dark brown gum. Flash chromatography of this material [SiO2/1-2% MeOH—NH4OH (9:1) in CH2Cl2] afforded the title compound (0.237 g, 68%) as a light yellow solid:

reactant | 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 1.0 mmol, 0.352 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC=CC=C1)Br | C17H22BrNO2
reactant | n-butyllithium | 1.2 mmol, 1.6M, 0.75 mL | C(CCC)[Li]
reactant | 2-iodopyrazine | 1.2 mmol, 0.119 mL | IC1=NC=CN=C1 | C4H3IN2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
catalyst | (Ph3P)4Pd | 0.058 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-Phenyl-1-(pyrazin-2-yl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.237 g, 68% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=NC=CN=C1)C1=CC=CC=C1 | C21H25N3O2
